US06479486B2
(1R*,2R*,5S*,6R*)-8-Benzyl-2-(3-hydroxypropynyl)-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol
A solution of n-butyl lithium in hexanes (1.6M, 20 ml, 32 mmol) was added to a stirred, −78° C. solution of O-trimethylsilylpropargyl alcohol (5 ml, 34.8 mmol) in tetrahydrofuran (50 ml). After 30 minutes a solution of (1R*,5S*,6R*)-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one (Description 7; 4.6 g, 10.7 mmol) in tetrahydrofuran (20 ml) was added. The mixture was stirred for 30 minutes then quenched by addition of saturated ammonium chloride. The mixture was diluted with ethyl acetate and washed (2×100 ml) with water. The organic layer was separated and treated with a solution of tetrabutylammonium fluoride (11.5 ml, 1.0M solution in tetrahydrofuran) for 20 minutes at room temperature. The solution was washed with water (2×100 ml) then dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 1:1, 3:2 and 2:1 ethyl acetate/iso-hexanes to yield the title compound (4.12 g, 79%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | O-trimethylsilylpropargyl alcohol | 34.8 mmol, 5 ml | C[Si](C)(C)OCC#C | C6H12OSi
reactant | (1R*,5S*,6R*)-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one | 10.7 mmol, 4.6 g | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C26H25NO3S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (1R*,2R*,5S*,6R*)-8-Benzyl-2-(3-hydroxypropynyl)-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol | 4.12 g, 79% | C(C1=CC=CC=C1)N1[C@@]2([C@](CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)(O)C#CCO)C2=CC=CC=C2 | C29H29NO4S
